Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.9825035650700005
[H:1][C:2][O:3][C:4]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:4](=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][C:2]=[O:3],-0.8803364402399999
[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.61517761068
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:10]([H:11])[H:12].[H:9]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-4.77633832815
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:12]([C:10](=[C:7]([H:8])[H:9])[H:11])([H:13])[H:14]>>[H:1][O:2][C:3]1([C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]1([H:13])[H:14],2.86223710002
[H:9].[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8][O:10][H:11]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[O:10][H:11],-4.41777906906
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12],5.9725486957300005
[O:1]=[C:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]=[O:5].[O:1]([C:3]([H:4])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[H:6],0.57278561453
[H:13].[H:1][C:2]([H:3])([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.49785971222
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4][H:5],4.437352461590001
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:6],1.50514601105
[C:4]([O:5][H:6])=[C:7]([H:8])[H:9].[H:1][C:2]#[C:3][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([C:4]([O:5][H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.77557392285
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],3.93641461739
[H:14].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.25397747145
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12],-4.13137570445
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:3]([H:4])([H:5])=[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][C:7]([H:6])([H:8])[H:9],2.11414740588
[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])[C:4]#[C:5][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.53657101856
[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8]>>[C:5]=[C:6]([H:7])[H:8].[H:1][C:2]([H:3])=[O:4],0.15784300753
[C:6]([H:7])=[C:8]([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[O:9][H:10])[C:11]([H:12])([H:13])[H:14],-1.5663660437
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])=[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][H:4],2.23733489005
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],4.551666700899999
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[C:8]([H:9])([H:10])=[C:11]=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],-1.37479739669
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],1.0701053541
[C:5]([H:6])(=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3][H:4]>>[O:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.0631095314200003
[C:4][C:10]([H:11])([H:12])[H:13].[H:1][C:2][C:3]#[C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]#[C:3]/[C:4](=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.218628314330001
[H:1][C:2]([H:3])[O:4][C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[O:4],1.01590221702
[H:1][C:2]#[C:3][O:4][C:5][C:6]#[C:7][H:8].[H:9]>>[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])[H:9],-3.94432659311
